US08309546B2
5-[8-(trans-2,5-Dimethylpiperazin-1-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine
trans-2,5-Dimethylpiperazine (150 mg, 1.3 mmol) and N-methylpyrrolidone (1 ml) were added to 5-(8-chloro-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl)pyrimidin-2-amine (100 mg, 0.26 mmol) and the resulting mixture was stirred at 150° C. for 48 hours. The reaction mixture was cooled and partitioned with methylene chloride and water, the organic layer was dried over magnesium sulfate, and the solvent was concentrated under reduced pressure. The residue was purified by preparative HPLC (column, NOMURA Develosil Combi-RP-5; mobile phase, acetonitrile/water/formic acid) to give the title compound (120 mg) as a pale yellow solid.

reactant | trans-2,5-Dimethylpiperazine | 1.3 mmol, 150 mg | C[C@@H]1NC[C@H](NC1)C | C6H14N2
reactant | 5-(8-chloro-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl)pyrimidin-2-amine | 0.26 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(C)C | C17H21ClN8O
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 5-[8-(trans-2,5-Dimethylpiperazin-1-yl)-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine | 120 mg | C[C@@H]1N(C[C@H](NC1)C)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(C)C | C23H34N10O
